US07109367B1
As in Example 1, phenylthiomethyl chloride (3.31 g, 0.0209 mol), methyldichlorosilane (7.23 g, 0.0628 mol) and tetrabutylphosphonium chloride (0.615 g, 0.00209 mol) were put in a 50 mL stainless steel tube under nitrogen atmosphere. The reaction chamber was closed with a cover and the reaction was carried out at 120° C. for 12 hours. This reaction mixture was distilled under low pressure to give 1.82 g of methyl(phenylthiomethyl)dichlorosilane in 36.9% yield.

reactant | phenylthiomethyl chloride | 0.0209 mol, 3.31 g | C1(=CC=CC=C1)SCCl | C7H7ClS
reactant | methyldichlorosilane | 0.0628 mol, 7.23 g | C[SiH](Cl)Cl | CH4Cl2Si
catalyst | tetrabutylphosphonium chloride | 0.00209 mol, 0.615 g | [Cl-].C(CCC)[P+](CCCC)(CCCC)CCCC
product | methyl(phenylthiomethyl)dichlorosilane | 1.82 g, 36.9% yield | C[Si](Cl)(Cl)CSC1=CC=CC=C1 | C8H10Cl2SSi
